US07470790B2
Synthesis of 6-oxa-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester (III-1)
Di-Tert-Butyl Dicarbonate (0.015 Mol) was Added in Portions to a Solution of 3-pyrroline (0.01 mol, 65% pure) in 20 mL MeOH at 0° C. The reaction mixture was then stirred at room temperature for 24 h. (TLC monitored using 9:1 hexanes/EtOAc). After evaporation of the solvent, the residue was dissolved in 30 mL CH2Cl2. The reaction mixture was cooled to 0° C. and m-CPBA (0.013 mol, maximum 77% pure) was added in portions. After stirring the mixture at room temperature for 48 h, 20% Na2SO3 was added and two layers were separated. The aqueous layers were extracted with CH2Cl2 (20 mL×2). The combined organic extracts were washed with 20% Na2SO3 (30 mL×2) and water (30 mL×2). The solvent was then removed in vacuo. The residue was purified by column chromatography (silica gel, hexanes:EtOAc, 7:3) to give pure product (71%).

reactant | Di-Tert-Butyl Dicarbonate | 0.015 Mol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-pyrroline | 0.01 mol | N1CC=CC1 | C4H7N
reactant | m-CPBA | 0.013 mol | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 6-oxa-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 71% | C(C)(C)(C)OC(=O)N1CC2OC2C1 | C9H15NO3
